US08895761B2
To a solution of 4-[1-(4-bromo-2-ethylphenyl)methylidene]-2,5-diethyl-2,5-dimethyldihydrofuran-3-one (20 g, 0.055 mol) in methanol (800 ml) is added a solution of 50% aqueous hydrogen peroxide (9.58 ml, 0.165 mol) and a solution of 2N aqueous sodium hydroxide (10.98 ml, 0.02 mol) at ambient temperature. The reaction mixture is stirred at ambient temperature for 12-15 hours. The reaction mixture is quenched with a solution of saturated aqueous sodium metabisulfite, evaporated under reduced pressure to remove most of the solvent and extracted with dichloromethane (3×100 ml). The organic phases are combined, washed with water, and dried over anhydrous sodium sulfate. The mixture is filtered, and the filtrate is evaporated under reduced pressure to give 2-(4-bromo-2-ethylphenyl)-4,6-diethyl-4,6-dimethyl-1,5-dioxaspiro[2.4]heptan-7-one (15 g), used without further purification in the next step.

reactant | 4-[1-(4-bromo-2-ethylphenyl)methylidene]-2,5-diethyl-2,5-dimethyldihydrofuran-3-one | 0.055 mol, 20 g | BrC1=CC(=C(C=C1)C=C1C(C(OC1(C)CC)(C)CC)=O)CC | C19H25BrO2
reactant | hydrogen peroxide | 0.165 mol, 9.58 ml | OO | H2O2
reactant | sodium hydroxide | 0.02 mol, 2N, 10.98 ml | [OH-].[Na+]
solvent | methanol | 800 ml | CO | CH4O
product | 2-(4-bromo-2-ethylphenyl)-4,6-diethyl-4,6-dimethyl-1,5-dioxaspiro[2.4]heptan-7-one | 15 g | BrC1=CC(=C(C=C1)C1OC12C(OC(C2=O)(C)CC)(C)CC)CC | C19H25BrO3
